US06548506B2
Ethyl 8-cyclohexylamino-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate was prepared under the conditions of Example 4, but from 3 g of ethyl 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate and 2.2 cm3 of cyclohexylamine in 30 cm3 of dimethyl sulphoxide. After filtering 2 times with 15 cm3 of ethanol, 3.3 g of ethyl 8-cyclohexylamino-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate were obtained in the form of a yellow solid melting at about 220° C.

reactant | ethyl 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate | 3 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)OCC)C)C=C1F | C16H12F2N2O3
reactant | cyclohexylamine | 2.2 cm3 | C1(CCCCC1)N | C6H13N
solvent | dimethyl sulphoxide | 30 cm3 | CS(=O)C | C2H6OS
product | ethyl 8-cyclohexylamino-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate | 3.3 g | C1(CCCCC1)NC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)OCC)C)C1)F | C22H24FN3O3
